US05049561
Preparation of butyric acid [1-(6-methyl-2,3-dihydro-2-pyranyl)ethylidene]hydrazide, Compound 33
A mixture of 5.0 gm (0.0356 mole) of 2-acetyl-6-methyl-2,3-dihydropyran, 3.64 gm (0.0356 mole) of n-butyric acid hydrazide and 100 ml of ethanol is refluxed 24 hr. The mixture is diluted with water to the cloud point and chilled. The product is collected, washed with water and dried to give 0.93 gm (12%) of the title compound having a melting point of 72.8° C.

reactant | 2-acetyl-6-methyl-2,3-dihydropyran | 0.0356 mole, 5.0 gm | C(C)(=O)C1OC(=CCC1)C | C8H12O2
reactant | n-butyric acid hydrazide | 0.0356 mole, 3.64 gm | C(CCC)(=O)NN | C4H10N2O
reactant | ethanol | 100 ml | C(C)O | C2H6O
solvent | water | O | H2O
product | butyric acid [1-(6-methyl-2,3-dihydro-2-pyranyl)ethylidene]hydrazide | 0.93 gm, 12% | CC1=CCCC(O1)C(C)=NNC(CCC)=O | C12H20N2O2
